US06511974B1
[2-Chloro-6-(4-methylpyrazol-1-yl)-pyridin-3-yl](5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
To a suspension of 60% sodium hydride in oil (0.1 g) in dimethylformamide (25 ml) was added dropwise 3-methylpyrazole (0.45 g). After hydrogen gas evolution ceased, (2,6-dichloropyridin-3-yl)(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone, (1.79 g) was added and the reaction mixture was heated in a sand bath at 110° C. for 18 hours. The mixture was poured onto ice, diluted with brine, and extracted with dichloromethane. The combined extracts were dried over anhydrous sodium sulfate and filtered through a short column of anhydrous sodium magnesium silicate. The crude product was purified by preparative hplc (Dynamax c60 silica cartridge) eluting with 40% ethyl acetate in hexanes to give 0.26 g of colorless crystals, m.p. 155-156° C., MS, m/z: 404.2 (M+H)+, 807.0 (2M+H)+.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-methylpyrazole | 0.45 g | CC1=NNC=C1 | C4H6N2
reactant | hydrogen | [H][H] | H2
reactant | (2,6-dichloropyridin-3-yl)(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.79 g | ClC1=NC(=CC=C1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)Cl | C18H13Cl2N3O
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | [2-Chloro-6-(4-methylpyrazol-1-yl)-pyridin-3-yl](5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.26 g | ClC1=NC(=CC=C1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)N2N=CC(=C2)C | C22H18ClN5O
